US07282588B2
Preparation of N′-{4-[1-[2-(dimethylamino)ethyl]-4-(2-{3-[(dimethylamino)methyl]phenyl}-1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-3-yl]phenyl}-N,N-dimethylurea
To N′-(4-{4-(2-{3-[(dimethylamino)methyl]phenyl}-1H-pyrrolo[2,3-b]pyridin-4-yl)-1-[2-(methylamino)ethyl]-1H-pyrazol-3-yl}phenyl)-N,N-dimethylurea.3TFA (300 mg, 0.34 mMol) in MeOH (10 mL) was added with stirring at RT aq. 1 N NaOH (1.1 mL, 1.1 mMol), 37 wt. % CH2O in water (50 uL, 0.67 mMol) and 20% Pd(OH)2/C (Pearlman's catalyst) (˜10 mg). A balloon of H2 was attached and the reaction stirred at RT for 3 days. The reaction was evaporated to dryness under vacuum, taken up in (9:1) CHCl3/iPrOH (15 mL) and treated with excess methyl isatoic anhydride polystyrene resin (˜500 mg, >1.8 mMol/g). After stirring at RT for 4 h the reaction was filtered, rinsed with (9:1) CHCl3/iPrOH, and the filtrate concentrated to dryness under vacuum. Purification by Gilson HPLC provided the title compound (56.6 mg, 30%) as a white solid. ESMS [M+H]+: 551.6

reactant | N′-(4-{4-(2-{3-[(dimethylamino)methyl]phenyl}-1H-pyrrolo[2,3-b]pyridin-4-yl)-1-[2-(methylamino)ethyl]-1H-pyrazol-3-yl}phenyl)-N,N-dimethylurea | CN(C)CC=1C=C(C=CC1)C1=CC=2C(=NC=CC2C=2C(=NN(C2)CCNC)C2=CC=C(C=C2)NC(N(C)C)=O)N1 | C31H36N8O
reactant | NaOH | 1.1 mMol, 1 N, 1.1 mL | [OH-].[Na+]
reactant | CH2O | C=O | CH2O
reactant | water | 0.67 mMol, 50 uL | O | H2O
solvent | MeOH | 10 mL | CO | CH4O
solvent | Pd(OH)2/C | ˜10 mg | [OH-].[OH-].[Pd+2]
product | N′-{4-[1-[2-(dimethylamino)ethyl]-4-(2-{3-[(dimethylamino)methyl]phenyl}-1H-pyrrolo[2,3-b]pyridin-4-yl)-1H-pyrazol-3-yl]phenyl}-N,N-dimethylurea | 56.6 mg, 30% | CN(CCN1N=C(C(=C1)C1=C2C(=NC=C1)NC(=C2)C2=CC(=CC=C2)CN(C)C)C2=CC=C(C=C2)NC(N(C)C)=O)C | C32H38N8O
